US07612201B2
1-(1-Acetyl-6-benzyloxy-3-methyl-1H-indol-5-yl)-ethanone
A solution of N-(4-acetyl-5-benzyloxy-2-bromo-phenyl)-N-allyl-acetamide (0.662 g, 1.65 mmol), P(o-tolyl)3 (0.028 g, 0.092 mmol) and triethylamine (0.34 ml, 2.24 mmol) in MeCN (15 ml) was flushed with nitrogen, followed by the addition of a Pd(OAc)2 (0.005 g). The reaction was microwaved for 500 sec. at 150° C. The crude mixture was diluted with EtOAc, washed with water and dried over MgSO4. Purification by column chromatography in hexane/EtOAc (1:1) afforded (0.283 g, 54%) a cream solid. LC/MS: RT=2.742 min. 322 (MH+), 344 (MNa+), 280 (MH+-Ac).

reactant | N-(4-acetyl-5-benzyloxy-2-bromo-phenyl)-N-allyl-acetamide | 1.65 mmol, 0.662 g | C(C)(=O)C1=CC(=C(C=C1OCC1=CC=CC=C1)N(C(C)=O)CC=C)Br | C20H20BrNO3
reactant | P(o-tolyl)3 | 0.092 mmol, 0.028 g | CC1=C(C=CC=C1)P(C2=C(C=CC=C2)C)C3=C(C=CC=C3)C | C21H21P
reactant | triethylamine | 2.24 mmol, 0.34 ml | C(C)N(CC)CC | C6H15N
solvent | MeCN | 15 ml | CC#N | C2H3N
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | Pd(OAc)2 | 0.005 g | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | 1-(1-Acetyl-6-benzyloxy-3-methyl-1H-indol-5-yl)-ethanone | 0.283 g, 54% | C(C)(=O)N1C=C(C2=CC(=C(C=C12)OCC1=CC=CC=C1)C(C)=O)C | C20H19NO3
